US06939874B2
N4-(1H-Benzimidazol-2-yl)-N2-{3,5-dimethoxy-4-[2-(4-methyl-piperazin-1-yl)-ethoxy]-phenyl}-N4-(2,6-dimethyl-phenyl)-pyrimidine-2,4-diamine
A pressure tube was charged with a solution of 2-(N-(2-chloropyrimid-4-yl)-2,6-dimethylphenylamino)-1H-benzimidazole (50 mg, 0.14 mmol), 3,5-dimethoxy-4-[2-(4-methylpiperazin-1-yl)-ethoxy]phenylamine (42 mg, 0.14 mmol) in glacial AcOH (2 mL). The reaction, a dark brown solution, was heated to 100° C. for 18 h. The reaction was cooled to RT and then basified by careful addition of 5M NaOH (15 mL). The aqueous solution was extracted with CH2Cl2. The combined organic extracts were dried (Na2SO4) and the solvent was removed in vacuo. The residue was purified by column chromatography (silica; CH2Cl2:MeOH; 8:2) to afford the title compound as a light purple solid. MS m/z=609 (M+H). Calc'd for C34H40N8O3=608.

reactant | 2-(N-(2-chloropyrimid-4-yl)-2,6-dimethylphenylamino)-1H-benzimidazole | 0.14 mmol, 50 mg | ClC1=NC=CC(=N1)N(C1=NC2=C(N1)C=CC=C2)C2=C(C=CC=C2C)C | C19H16ClN5
reactant | 3,5-dimethoxy-4-[2-(4-methylpiperazin-1-yl)-ethoxy]phenylamine | 0.14 mmol, 42 mg | COC=1C=C(C=C(C1OCCN1CCN(CC1)C)OC)N | C15H25N3O3
reactant | NaOH | 5M, 15 mL | [OH-].[Na+]
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | N4-(1H-Benzimidazol-2-yl)-N2-{3,5-dimethoxy-4-[2-(4-methyl-piperazin-1-yl)-ethoxy]-phenyl}-N4-(2,6-dimethyl-phenyl)-pyrimidine-2,4-diamine | N1C(=NC2=C1C=CC=C2)N(C2=NC(=NC=C2)NC2=CC(=C(C(=C2)OC)OCCN2CCN(CC2)C)OC)C2=C(C=CC=C2C)C | C34H40N8O3
